US06436965B1
Step 4: Ethyl 5-Bromo-1-[(4-fluorophenyl)methyl]-3-(phenylmethoxy)indole-2-carboxylate
To a mixture of 5.57 g of ethyl 5-bromo-3-(phenylmethoxy)indole-2-carboxylate and 2.9 mL of 4-fluorobenzyl bromide in 40 mL of DMF at 0° C. was added 887 mg of a NaH suspension (60% in oil) and the resulting reaction mixture was warmed slowly to room temperature with continuous stirring. After 0.5 hour, the reaction was quenched with saturated aqueous NH4Cl and extracted twice with ethyl acetate/ether 1:1. The organic phase was washed with water (4×), brine and dried over anhydrous Na2SO4. Flash chromatography (toluene) and recrystallization from hexane yielded 5.99 g of the title compound as a white solid.

reactant | ethyl 5-bromo-3-(phenylmethoxy)indole-2-carboxylate | 5.57 g | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)OCC1=CC=CC=C1 | C18H16BrNO3
reactant | 4-fluorobenzyl bromide | 2.9 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | NaH | 887 mg | [H-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Ethyl 5-Bromo-1-[(4-fluorophenyl)methyl]-3-(phenylmethoxy)indole-2-carboxylate | 5.99 g | BrC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)F)C(=O)OCC)OCC1=CC=CC=C1 | C25H21BrFNO3
